US04939241
To a solution of O-acetoacetyl-N-trifluoroacetyl-L-serine (232 mg) and triethylamine (0.41 ml) in ethanol (7 ml) was added p-toluenesulfonyl azide (193 mg) at 0° C. The mixture was stirred for an hour at 0° C. and for 4 hours at room temperature. The solvent was distilled off in vacuo and the residue was diluted with chloroform and washed successively with aqueous acetic acid, water and brine. After drying over sodium sulfate, the chloroform extract was filtered and concentrated. The residue was flash chromatographed on silica gel (10 g) eluting successively with chloroform and a 1:9 mixture of methanol and chloroform to give O-(2-diazo-1,3-dioxobutyl)-N-trifloroacetyl-L-serine (193 mg).

reactant | O-acetoacetyl-N-trifluoroacetyl-L-serine | 232 mg | C(CC(=O)C)(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O | C9H10F3NO6
reactant | triethylamine | 0.41 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl azide | 193 mg | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | O-(2-diazo-1,3-dioxobutyl)-N-trifloroacetyl-L-serine | 193 mg | [N+](=[N-])=C(C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)C(C)=O | C9H8F3N3O6
